US05190865
To a solution of diisopropylamine (3.85 mL, 27.5 mmol) in THF (100 mL) under nitrogen at -78° C. was added a 2.5M solution of n-butyllithium in hexanes (10 mL). To this mixture was added methylanthranilate (3.23 mL, 25 mmol) during continuous stirring of the mixture, followed by di-t-butyl dicarbonate (6.88 mL, 30 mmol). The mixture was allowed to warm to room temperature over 1 h and was stirred for 24 h, after which time the solvent was removed in vacuo. The residue was dissolved in methylene chloride (100 mL), and to the resulting solution was slowly added 1M sodium citrate/citric acid buffer, pH 4. The aqueous layer was extracted once with methylene chloride (70 mL). The combined organic layers were washed with the citrate buffer (100 mL), saturated NaHCO3 (100 mL) and saturated NaCl (100 mL), dried over MgSO4 and concentrated in vacuo. The methyl N-(t-butoxycarbonyl)anthranilate was purified by silica gel chromatography eluting with a gradient of 0 to 30% methylene chloride in hexanes. The product was hydrolyzed directly with 2N NaOH (14 mL) in methanol (10 mL) at 23° C. for 12 h. Water (25 mL) and 1M citrate pH 4 (25 mL) were then added and the pH adjusted to 2.5 with concentrated HCl. The aqueous phase was extracted with methylene chloride (3×25 mL). The combined methylene chloride was dried over MgSO4 and concentrated in vacuo to give pure N-(t-butoxycarbonyl)-2-aminobenzoic acid (2.49 g, 10.5 mmol, 38% yield) as a white solid, with structure confirmed as follows:

reactant | diisopropylamine | 27.5 mmol, 3.85 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | methylanthranilate | 25 mmol, 3.23 mL | COC(C=1C(N)=CC=CC1)=O | C8H9NO2
reactant | di-t-butyl dicarbonate | 30 mmol, 6.88 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(t-butoxycarbonyl)-2-aminobenzoic acid | 10.5 mmol, 2.49 g, 38% yield | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=CC=C1 | C12H15NO4
